US07498440B2
Preparation of 4-[hydroxy(diphenyl)methyl]-1-(2-{[2-(methyloxy)ethyl]oxy}ethyl)-1-azoniabicyclo[2.2.2]octane bromide
Following the general procedure outlined in Example 3, 1-azabicyclo[2.2.2]oct-4-yl(diphenyl)methanol (0.0665 g, 0.227 mmol) and 1-bromo-2-{[2-(methyloxy)ethyl]oxy}ethane (0.05 5 mL, 0.405 mmol) in 2 CH3CN/3 CHCl3 (4.0 mL) were reacted to give the desired product (0.0843 g, 78.8%). EI-MS m/z 396(M+) Rt (1.64 min).

reactant | 1-azabicyclo[2.2.2]oct-4-yl(diphenyl)methanol | 0.227 mmol, 0.0665 g | N12CCC(CC1)(CC2)C(O)(C2=CC=CC=C2)C2=CC=CC=C2 | C20H23NO
reactant | 1-bromo-2-{[2-(methyloxy)ethyl]oxy}ethane | 0.405 mmol, 5 mL | BrCCOCCOC | C5H11BrO2
solvent | CH3CN | 4.0 mL | CC#N | C2H3N
product | 4-[hydroxy(diphenyl)methyl]-1-(2-{[2-(methyloxy)ethyl]oxy}ethyl)-1-azoniabicyclo[2.2.2]octane bromide | 0.0843 g, 78.8% | [Br-].OC(C12CC[N+](CC1)(CC2)CCOCCOC)(C2=CC=CC=C2)C2=CC=CC=C2 | InChI=1S/C25H34NO3.BrH/c1-28-20-21-29-19-18-26-15-12-24(13-16-26,14-17-26)25(27,22-8-4-2-5-9-22)23-10-6-3-7-11-23;/h2-11,27H,12-21H2,1H3;1H/q+1;/p-1
